US06818631B1
4-Cyano-5-iodo-2-methylthio-6-trifluoromethylpyrimidine
4-Chloro-5-iodo-2-methylthio-6-trifluoromethylpyrimidine (5.00 g) was dissolved in propionitrile (125 ml) and 4-(dimethylamino)-pyridine (1.81 g) was added at room temperature with stirring. After several minutes, precipitates appeared, however, it was stirred over night at room temperature. The slurry was cooled to ice bath temperature, and then added sodium cyanide (1.04 g) water (10 ml) solution. The mixture was warmed to room temperature and stirred 3 hr. The reaction mixture was added water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and brine, respectively and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by silica get column chromatography (hexane-ethyl acetate) to give 4-cyano-5-iodo-2-methylthio-6-trifluoromiethylpyrimidine (2.56 g) as yellow solid, mp 68-69° C.

reactant | 4-Chloro-5-iodo-2-methylthio-6-trifluoromethylpyrimidine | 5.00 g | ClC1=NC(=NC(=C1I)C(F)(F)F)SC | C6H3ClF3IN2S
reactant | propionitrile | 125 ml | C(CC)#N | C3H5N
catalyst | 4-(dimethylamino)-pyridine | 1.81 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-Cyano-5-iodo-2-methylthio-6-trifluoromethylpyrimidine | C(#N)C1=NC(=NC(=C1I)C(F)(F)F)SC | C7H3F3IN3S
